US07022730B2
The compound Bis(1-methylindol-3-yl)-(5-hydroxymethyl-2-furyl)methane was prepared following general procedure A, starting from N-methyl indole and 5-hydroxy methyl furfural. LC: Tr 2.25 min, MS: 371 (M+H)+

reactant | N-methyl indole | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | 5-hydroxy methyl furfural | OCC1=CC=C(C=O)O1 | C6H6O3
product | Bis(1-methylindol-3-yl)-(5-hydroxymethyl-2-furyl)methane | CN1C=C(C2=CC=CC=C12)C(C=1OC(=CC1)CO)C1=CN(C2=CC=CC=C12)C | C24H22N2O2
